US07233019B2
1,3,6,8-Tetrakis-(4-trimethylsilyl-phenyl)-pyrene
1,3,6,8-Tetrachloro-pyrene (3.50 g, 0.0103 mol), 4-trimethylsilylphenylboronic acid (10.0 g, 0.0515 mol), tris(dibenzylideneacetone)dipalladium(0) (1.18 g, 0.00129 mol), di-tert-butyl-trimethylsilylmethyl-phosphane (0.72 g, 0.0031 mol), cesium carbonate (16.78 g, 0.0515 mol) and dioxane (100 ml) were stirred at room temperature for 24 hours. The resultant mixture was poured into 200 ml of water and extracted twice with 200 ml of methylene chloride. The organic phase was dried over magnesium sulfate overnight and filtered. The solvent was removed on a roto-evaporator and the residue was purified by chromatography on silica gel with petroleum ether/ethyl ether (10/0.5) as eluent. Yield of 1,3,6,8-tetrakis-(4-trimethylsilanyl-phenyl)-pyrene was 2.39 g (29.11%) as a yellow solid with no m.p. below 250° C. 1H NMR (CD2Cl2) 0.15 (s., 36H, Me), 7.40–7.60 (br., 22H, arom-H), 7.91 (s., 2H, arom.-H), 8.20 (s., 4H, arom.-H). LC/MS: exact mass calculated for C52H58Si4: 794.36. Found: 794.36. The structure was confirmed by X-ray analysis.

reactant | 1,3,6,8-Tetrachloro-pyrene | 0.0103 mol, 3.50 g | ClC1=CC(=C2C=CC3=C(C=C(C4=CC=C1C2=C34)Cl)Cl)Cl | C16H6Cl4
reactant | 4-trimethylsilylphenylboronic acid | 0.0515 mol, 10.0 g | C[Si](C1=CC=C(C=C1)B(O)O)(C)C | C9H15BO2Si
reactant | di-tert-butyl-trimethylsilylmethyl-phosphane | 0.0031 mol, 0.72 g | C(C)(C)(C)P(C[Si](C)(C)C)C(C)(C)C | C12H29PSi
reactant | cesium carbonate | 0.0515 mol, 16.78 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00129 mol, 1.18 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 200 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1,3,6,8-Tetrakis-(4-trimethylsilyl-phenyl)-pyrene | C[Si](C1=CC=C(C=C1)C1=CC(=C2C=CC3=C(C=C(C4=CC=C1C2=C34)C3=CC=C(C=C3)[Si](C)(C)C)C3=CC=C(C=C3)[Si](C)(C)C)C3=CC=C(C=C3)[Si](C)(C)C)(C)C | C52H58Si4
